US04452851
A mixture of 7-[4-chloro-2-(methoxycarbonylmethoxyimino)-3-oxobutyramido]-3-methylthio-3-cephem-4-carboxylic acid (syn isomer) (2.6 g), thiourea (0.91 g) and sodium acetate (2.46 g) in tetrahydrofuran (10 ml) and water (20 ml) was stirred at 40° to 45° C. for 3 hours. Water (50 ml) was added to the reaction mixture and the resultant solution was washed with ethyl acetate. The separated aqueous layer was acidified to pH 2.2 with 10% hydrochloric acid and the acidified aqueous solution was extracted with ethyl acetate-tetrahydrofuran (8:2). The organic layer was washed with brine and dried over magnesium sulfate. The solution was evaporated and the residue was triturated with ether to give 7-[2-(2-aminothiazol-4-yl)-2-(methoxycarbonylmethoxyimino)acetamido]-3-methylthio-3-cephem-4-carboxylic acid (syn isomer) (2.0 g).

reactant | 7-[4-chloro-2-(methoxycarbonylmethoxyimino)-3-oxobutyramido]-3-methylthio-3-cephem-4-carboxylic acid | 2.6 g | ClCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=S)O)C1=O)=NOCC(=O)OC)=O | C15H16ClN3O7S2
reactant | thiourea | 0.91 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 2.46 g | C(C)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | Water | 50 ml | O | H2O
product | 7-[2-(2-aminothiazol-4-yl)-2-(methoxycarbonylmethoxyimino)acetamido]-3-methylthio-3-cephem-4-carboxylic acid | 2.0 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=S)O)C1=O)=NOCC(=O)OC | C16H17N5O6S3
